US08975254B2
b) 5-(morpholinomethyl)isoxazole-3-carboxylic acid
The title compound was prepared from ethyl 5-(morpholinomethyl)isoxazole-3-carboxylate (0.2 g, 0.85 mmol) and sodium hydroxide solution (2 mL) using the method of Example 225(b). Yield 0.25 g. 1H NMR (400 MHz; D2O): δ 3.46 (m, 4H), 3.99 (m, 4H), 4.72 (s, 2H), 7.10 (m, 1H).

reactant | ethyl 5-(morpholinomethyl)isoxazole-3-carboxylate | 0.85 mmol, 0.2 g | O1CCN(CC1)CC1=CC(=NO1)C(=O)OCC | C11H16N2O4
reactant | sodium hydroxide | 2 mL | [OH-].[Na+]
product | 5-(morpholinomethyl)isoxazole-3-carboxylic acid | O1CCN(CC1)CC1=CC(=NO1)C(=O)O | C9H12N2O4
